US08912221B2
Step D: 3-(2-Bromo-4-chloro-6-fluoro-phenyl)-5-methyl-[1,2,4]oxadiazole
To a solution of 2-bromo-4-chloro-6-fluoro-N-hydroxy-benzamidine (26.5 g, 99.25 mmol) in 2-propanol (200 ml) was added N,N-dimethylacetamide dimethyl acetal (35.2 ml, 238.20 mmol) slowly at 25° C. and the reaction mixture was stirred for 30 minutes. After completion of the reaction all volatiles were evaporated and the resulting crude product was purified by chromatography (silica gel; hexane/EtOAc 97:3) to obtain the title compound as white solid (27.5 g, 58%). MS: m/z=290 [M]+.

reactant | 2-bromo-4-chloro-6-fluoro-N-hydroxy-benzamidine | 99.25 mmol, 26.5 g | BrC1=C(C(=N)NO)C(=CC(=C1)Cl)F | C7H5BrClFN2O
reactant | N,N-dimethylacetamide dimethyl acetal | 238.20 mmol, 35.2 ml | COC(C)(N(C)C)OC | C6H15NO2
solvent | 2-propanol | 200 ml | CC(C)O | C3H8O
product | 3-(2-Bromo-4-chloro-6-fluoro-phenyl)-5-methyl-[1,2,4]oxadiazole | 27.5 g, 58% | BrC1=C(C(=CC(=C1)Cl)F)C1=NOC(=N1)C | C9H5BrClFN2O
